US09303012B2
b) 5-Cyclopropyl-6-(tetrahydro-pyran-4-ylmethoxy)-pyridine-2-carboxylic acid [cyclopropyl-(5-methyl-[1,2,4]oxadiazol-3-yl)-methyl]-methyl-amide
In analogy to the procure described in Example 16 b), 5-cyclopropyl-6-(tetrahydro-pyran-4-ylmethoxy)-pyridine-2-carboxylic acid [cyclopropyl-(5-methyl-[1,2,4]oxadiazol-3-yl)-methyl]-amide was reacted with methyl iodide (CAN 74-88-4) in the presence of sodium hydride to give the title compound as colorless oil; MS (EI): m/e=427.2 [MH]+.

reactant | 5-cyclopropyl-6-(tetrahydro-pyran-4-ylmethoxy)-pyridine-2-carboxylic acid [cyclopropyl-(5-methyl-[1,2,4]oxadiazol-3-yl)-methyl]-amide | C1(CC1)C(C1=NOC(=N1)C)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CCOCC1 | C22H28N4O4
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
product | 5-Cyclopropyl-6-(tetrahydro-pyran-4-ylmethoxy)-pyridine-2-carboxylic acid [cyclopropyl-(5-methyl-[1,2,4]oxadiazol-3-yl)-methyl]-methyl-amide | C1(CC1)C(C1=NOC(=N1)C)N(C(=O)C1=NC(=C(C=C1)C1CC1)OCC1CCOCC1)C | C23H30N4O4
